US08404736B2
Step 3 4-(1-{[2-Oxo-1-(4-trifluoromethylbenzyl)-2,3-dihydro-1H-indole-7-carbonyl]-amino}-cyclopropyl)-benzoic acid
A mixture of 0.40 g of 2-oxo-1-(4-trifluoromethyl-benzyl)-2,3-dihydro-1H-indole-7-carboxylic acid, 0.29 g of (±)4-(1-amino-ethyl)-benzoic acid methyl ester, 0.19 g of HOBT-hydrate, 0.30 g of ethyl-dimethylaminopropyl-carbodiimide hydrochloride (EDC1) and 0.150 ml of N-methylmorpholine in 7 ml of DMF was stirred at room temperature for 16 h. The reaction was then quenched with 10 ml of water and 5 ml of sat. NaHCO3 solution. The resulting mixture extracted with 25 ml of EtOAc. The organic layer was dried over Na2SO4, filtered, and concentrated to give the crude methyl ester (0.3 g) which was dissolved in 5 ml THF, 5 mL MeOH and treated with 4 mL of 1N LiOH solution. After stirring at 50° C. for 12 h, the reaction mixture was concentrated under reduced pressure to remove THF and MeOH. The residue was diluted with 8 mL of water and treated with 1 mL of AcOH with vigorous stirring. After stirring for 2 h, the solid was collected by filtration and air-dried to give 0.25 g of the title compound as a white powder.

reactant | 2-oxo-1-(4-trifluoromethyl-benzyl)-2,3-dihydro-1H-indole-7-carboxylic acid | 0.40 g | O=C1N(C2=C(C=CC=C2C1)C(=O)O)CC1=CC=C(C=C1)C(F)(F)F | C17H12F3NO3
reactant | (±)4-(1-amino-ethyl)-benzoic acid methyl ester | 0.29 g | COC(C1=CC=C(C=C1)C(C)N)=O | C10H13NO2
reactant | ethyl-dimethylaminopropyl-carbodiimide hydrochloride | 0.30 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methylmorpholine | 0.150 ml | CN1CCOCC1 | C5H11NO
reactant | LiOH | 1N, 4 mL | [Li+].[OH-]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(1-{[2-Oxo-1-(4-trifluoromethylbenzyl)-2,3-dihydro-1H-indole-7-carbonyl]-amino}-cyclopropyl)-benzoic acid | 0.25 g | O=C1N(C2=C(C=CC=C2C1)C(=O)NC1(CC1)C1=CC=C(C(=O)O)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C27H21F3N2O4
